US07238679B2
A mixture of 4-chloro-7-dimethylphosphinyl-6-quinazolinol, acetate ester (See e.g. PCT lnt. Appl.(2001) WO 0104102 for the 7-methoxy analog and subsequent examples below for conversion of quinazinols to triflates followed by displacement with “J”, our phosphorus-containing moiety) (3.2 mmol) and 3-chloro-4-flluoro aniline (3.3 mmol) in 2-propanol (20 mL) is heated at 90° C. for 10 hr. After this time the reaction mixture is cooled and the resulting product recovered to afford the 4-anilino-6-acetoxy quinazoline product. This material is then treated with MeOH (17 mL) followed by concentrated ammonium hydroxide and the resulting solution stirred for 17 h. After this time the reaction mixture is evaporated and the residue chromatographed on silica gel (10% MeOH/DCM) to afford deacetylated product.

reactant | 4-chloro-7-dimethylphosphinyl-6-quinazolinol | ClC1=NC=NC2=CC(=C(C=C12)O)P(=O)(C)C | C10H10ClN2O2P
reactant | phosphorus | [P] | P
reactant | 2-propanol | 20 mL | CC(C)O | C3H8O
product | 4-anilino-6-acetoxy quinazoline | N(C1=CC=CC=C1)C1=NC=NC2=CC=C(C=C12)OC(C)=O | C16H13N3O2
